US04125732
Methyl(p-tert-Butylphenoxy){p-[2-(p-tert-Butylphenoxy)propoxy]phenyl}acetate
As described in Example 71, methyl bromo{p-[2-(p-tert-butylphenoxy)propoxy]phenyl}acetate (0.017 mole) is reacted with 2.55 g of p-tert-butylphenol in 75 ml of tetrahydrofuran at 80° C. for 18 hr to give the product as a gum.

reactant | methyl bromo{p-[2-(p-tert-butylphenoxy)propoxy]phenyl}acetate | 0.017 mole | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)C(C)(C)C | C22H27BrO4
reactant | p-tert-butylphenol | 2.55 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Methyl(p-tert-Butylphenoxy){p-[2-(p-tert-Butylphenoxy)propoxy]phenyl}acetate | COC(C(C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)C(C)(C)C)OC1=CC=C(C=C1)C(C)(C)C)=O | C32H40O5
